US09233956B2
Step C: 2-Propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-4-fluorophenyl}carbamate
Following a procedure analogous to the procedure described in Intermediate 6 using 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-4-fluorophenyl}carbamate (20 g, 57.3 mmol), NBS (10.2 g, 57.3 mmol) and 2-methylpropanethioamide (7.4 g, 63 mmol) the title compound of Step C was obtained (11 g, 44.9% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.90-9.98 (br, 1H), 8.61 (d, J=5.3 Hz, 1H), 7.65-7.72 (m, 1H), 7.49-7.54 (m, 1H), 7.21-7.30 (m, 1H), 7.10 (d, J=5.3 Hz, 1H), 5.90-6.05 (m, 1H), 5.20-5.40 (m, 2H), 4.58-4.63 (m, 2H), 1.47 (s, 9H).

reactant | 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-4-fluorophenyl}carbamate | 57.3 mmol, 20 g | ClC1=NC=CC(=N1)CC(=O)C=1C=C(C=CC1F)NC(OCC=C)=O | C16H13ClFN3O3
reactant | NBS | 57.3 mmol, 10.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-methylpropanethioamide | 63 mmol, 7.4 g | CC(C(N)=S)C | C4H9NS
product | 2-Propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-4-fluorophenyl}carbamate | 44.9% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=C(C=CC1F)NC(OCC=C)=O | C21H20ClFN4O2S
